US05556864
Following a procedure similar to that described in the latter part of Preparation 3, 4.53 g of this 1-(2-benzyloxyphenyl)-4-(2-chlorophenyl)butadiene were dissolved in a 4:1 by volume mixture of tetrahydrofuran and ethanol and were hydrogenated, whilst ice-cooling. The reaction mixture was then worked up as described in the latter part of Preparation 3, to give 2.86 g (yield 62%) of 1-(2-benzyloxyphenyl)-4-(2-chlorophenyl)butane.

reactant | 1-(2-benzyloxyphenyl)-4-(2-chlorophenyl)butadiene | 4.53 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC=CC1=C(C=CC=C1)Cl | C23H19ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-benzyloxyphenyl)-4-(2-chlorophenyl)butane | 2.86 g, yield 62% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCCC1=C(C=CC=C1)Cl | C23H23ClO
